US08580957B2
A solution of 1,1-dimethylethyl[2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(5-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-pyrazol-1-yl)ethyl]methylcarbamate (for a preparation see intermediate 77) (40 mg, 0.077 mmol) in dichloromethane (DCM) (4 mL) was treated with trifluoroacetic acid (1 mL, 12.98 mmol) and the resulting mixture was stirred at room temperature for 3 h then concentrated in vacuo. The residue was loaded onto a 2 g SCX cartridge and eluted with MeOH (45 mL) followed by 2M NH3 in MeOH (45 mL). The ammonia fractions were combined and concentrated in vacuo. The residue was dissolved in MeOH (1 mL) and the solution was treated with HCl (1M in Et2O, 0.09 mmol, 0.09 ml) then was concentrated in vacuo. Trituration of the residue with Et2O gave (2S,4R)-1-acetyl-2-methyl-6-{-1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-(5-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (39 mg, 0.073 mmol, 94%) as a beige solid.

reactant | 1,1-dimethylethyl[2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(5-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-pyrazol-1-yl)ethyl]methylcarbamate | CC(C)(C)CN(C([O-])=O)CCN1N=CC(=C1)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)NC1=NC=C(C=C1)C
reactant | trifluoroacetic acid | 12.98 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 0.09 mmol, 1M, 0.09 ml | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (2S,4R)-1-acetyl-2-methyl-6-{-1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-(5-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | 0.073 mmol, 39 mg, 94% | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCNC)NC1=NC=C(C=C1)C)C | InChI=1S/C24H30N6O.ClH/c1-16-5-8-24(26-13-16)28-22-11-17(2)30(18(3)31)23-7-6-19(12-21(22)23)20-14-27-29(15-20)10-9-25-4;/h5-8,12-15,17,22,25H,9-11H2,1-4H3,(H,26,28);1H/t17-,22+;/m0./s1
